US07157447B2
N-(4-Fluoro-2-phenyl-benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
Intermediate 174, N-(4-Fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.150 g, 0.266 mmol) in a mixture of acetonitrile (10 ml) and water (10 ml) was treated with phenylboronic acid (0.042 g, 0.35 mmol), sodium carbonate (0.062 g, 0.58 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.070 g). The reaction mixture was degassed, flushed with argon and heated at 90° C. for 30 min. The reaction mixture was then diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated. Chromatography of the residue on silica gel (elution gradient of ethyl acetate in hexane) gave 0.124 g (91% yield) of the title material as a light yellow solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.61 (6H, s, 2×CH3), 4.03 (4H, m, 2×CH2), 4.49 (2H, d, J=6.1 Hz, NCH2), 7.02 (2H, m, aromatics), 7.29–7.51 (12H, m, aromatics and NH). HRMS (ESI+) calculated for C30H29FN3O4 [M+H+]: 514.2142. found: 514.2137.

reactant | N-(4-Fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.266 mmol, 0.150 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)I | C24H23FIN3O4
reactant | phenylboronic acid | 0.35 mmol, 0.042 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.58 mmol, 0.062 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.070 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-Fluoro-2-phenyl-benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.124 g, 91% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C1=CC=CC=C1 | C30H28FN3O4
